US09034866B2
Synthesis of 9-fluoro-10-(4-fluoro-3-(fluoromethyl)-3-hydroxybut-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide
Similar to as described in General Procedure G, 10-bromo-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide was reacted with 1-fluoro-2-(fluoromethyl)but-3-yn-2-ol to give the titled compound as a brown solid (42 mg, 18%).

reactant | 10-bromo-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(CCO2)C=C(N3)C(=O)N)C1)F | C12H9BrFN3O2
reactant | 1-fluoro-2-(fluoromethyl)but-3-yn-2-ol | FCC(C#C)(O)CF | C5H6F2O
product | 9-fluoro-10-(4-fluoro-3-(fluoromethyl)-3-hydroxybut-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | 42 mg, 18% | FC1=CC2=C(C=3N(CCO2)C=C(N3)C(=O)N)C=C1C#CC(CF)(O)CF | C17H14F3N3O3
